US05298492
Cool to -30° to -20° C., 3-phenyl-2(R)-acetoxypropionic acid (10.5 g) in CH2Cl2 (200 mL), add conc. H2SO4 (0.5 mL) and isobutylene (120 mL), seal the vessel, and stir at room temperature for 2 days. Vent the vessel, pour the reaction mixture into NaHCO3 solution, and extract with CH2Cl2. Dry the CH2Cl2 extract (MgSO4), then concentrate in vacuo to give 3-phenyl-2(R)-acetoxypropionic acid t-butyl ester.

reactant | 3-phenyl-2(R)-acetoxypropionic acid | 10.5 g | C1(=CC=CC=C1)C[C@H](C(=O)O)OC(C)=O | C11H12O4
reactant | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
reactant | isobutylene | 120 mL | CC(C)=C | C4H8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-phenyl-2(R)-acetoxypropionic acid t-butyl ester | C(C)(C)(C)OC([C@@H](CC1=CC=CC=C1)OC(C)=O)=O | C15H20O4
